US07060827B2
In like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro 4-pyrimidineamine, 4-fluoro-α-methylbenzylamine and 2,4-dichloro-5-fluoropyrimidine were reacted to produce (±)-N-(2-chloro-5-fluoropyrimidinyl)-1-(4-fluorophenyl)ethylamine. 1H NMR (CDCl3): δ 7.87 (d, 1H, J=2.3 Hz), 7.37–7.33 (dd, 2H, J=5.4 and 8.4 Hz), 7.04 (t, 2H, J=8.4 Hz), 5.35–5.31 (m, 2H), 1.60 (d, 3H, J=6.4 Hz); LCMS: ret. time: 32.90 min.; purity: 98%; MS (m/e): 270 (MH+).

reactant | 4-fluoro-α-methylbenzylamine | FC1=CC=C(C(C)N)C=C1 | C8H10FN
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (±)-N-(2-chloro-5-fluoropyrimidinyl)-1-(4-fluorophenyl)ethylamine | ClC1=NC=C(C(=N1)NC(C)C1=CC=C(C=C1)F)F | C12H10ClF2N3
